US06498159B1
26 g of oily sodium hydride was added over 40 min to 200 ml solution of 44 g pyrazole in 1-methyl-2-pyrrolidinone. 125 g of dimethyl 4-fluorophthalate was added thereto over 30 min and stirred at room temperature for 2 hr. The reaction solution was cooled to 0° C. and added to ice water. It was extracted with ethyl acetate, and washed with saturated sodium bicarbonate and brine. It was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated, and diethyl ether was added to the resulting crystalline residue which was then collected by filtration to give 77 g of dimethyl 4-(1H-1-pyrazolyl)phthalate.

reactant | sodium hydride | 26 g | [H-].[Na+]
reactant | pyrazole | 44 g | N1N=CC=C1 | C3H4N2
reactant | dimethyl 4-fluorophthalate | 125 g | FC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H9FO4
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | dimethyl 4-(1H-1-pyrazolyl)phthalate | 77 g | N1(N=CC=C1)C=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C13H12N2O4
